US06927228B2
(a) 2-(3-Bromophenyl)-N-methyl-N-phenylacetamide
6 g (28 mmol) of (3-bromophenyl)acetic acid in 50 ml of dichloromethane are introduced into a three-necked flask under a stream of nitrogen. At 0° C., 2.7 ml (28 mmol) of oxalyl chloride are added dropwise and the mixture is then stirred at room temperature for 18 hours. The reaction medium is evaporated to dryness and the residue is placed in 10 ml of tetrahydrofuran and added dropwise to a mixture of 3.2 g (28 mmol) of N-methylaniline, 50 ml of tetrahydrofuran and 4.6 ml (33 mmol) of triethylamine. The reaction medium is stirred at room temperature overnight, immersed in water and extracted with ethyl acetate. After separation of the phases once settling has taken place, the organic phase is dried over magnesium sulfate, filtered and evaporated. 5.7 g (67%) of the desired product, with a melting point of 60° C., are obtained.

reactant | (3-bromophenyl)acetic acid | 28 mmol, 6 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | oxalyl chloride | 28 mmol, 2.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methylaniline | 28 mmol, 3.2 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 33 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(3-Bromophenyl)-N-methyl-N-phenylacetamide | 5.7 g, 67% | BrC=1C=C(C=CC1)CC(=O)N(C1=CC=CC=C1)C | C15H14BrNO
